US08207210B2
4.3 120 mg of 1-fluoro-3-isocyanatomethylbenzene (0.79 mmol) are added to 270 mg of tert-butyl 5-amino-3-tert-butoxycarbonylamino-6-ethoxy-7-fluoroindazole-1-carboxylate (0.66 mmol), dissolved in 10 ml of dichloromethane, and the mixture is stirred at RT for 24 hours. The reaction solution is evaporated, and the residue is purified by column chromatography on silica gel (eluent: 100% heptane->60% heptane/40% ethyl acetate), giving 250 mg of tert-butyl 3-tert-butoxycarbonylamino-6-ethoxy-7-fluoro-5-[3-(3-fluorobenzyl)ureido]indazole-1-carboxylate (68%), MS-FAB (M+H+)=562.

reactant | 1-fluoro-3-isocyanatomethylbenzene | 0.79 mmol | FC1=CC(=CC=C1)CN=C=O | C8H6FNO
reactant | tert-butyl 5-amino-3-tert-butoxycarbonylamino-6-ethoxy-7-fluoroindazole-1-carboxylate | 0.66 mmol, 270 mg | NC=1C=C2C(=NN(C2=C(C1OCC)F)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C19H27FN4O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl 3-tert-butoxycarbonylamino-6-ethoxy-7-fluoro-5-[3-(3-fluorobenzyl)ureido]indazole-1-carboxylate | 250 mg, 68% | C(C)(C)(C)OC(=O)NC1=NN(C2=C(C(=C(C=C12)NC(=O)NCC1=CC(=CC=C1)F)OCC)F)C(=O)OC(C)(C)C | C27H33F2N5O6
